US08039463B2
HOBt (1.38 g, 10.2 mmol) and DIPEA (3.68 mL, 21.3 mmol) were added to a stirred solution of 2-trifluoromethyl-benzoic acid (1.62 g, 8.5 mmol) in DMF (5 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (1.96 g, 10.2 mmol) followed by 3-oxo-3-piperazin-1-yl-propionic acid ethyl ester hydrochloride (2 g, 8.5 mmol) were added. The reaction mixture was stirred at the room temperature overnight, then diluted with water and the product extracted with Ethyl acetate. The ethyl acetate was washed with brine solution, dried over Na2SO4 and evaporated to dryness. The residue was purified by column chromatography using silica gel 60-120 mesh (50% ethyl acetate in hexane) to afford 1.5 g (48%) of 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid ethyl ester. LCMS: 373.13 (M+1)+, 90%

reactant | HOBt | 10.2 mmol, 1.38 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 21.3 mmol, 3.68 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-trifluoromethyl-benzoic acid | 8.5 mmol, 1.62 g | FC(C1=C(C(=O)O)C=CC=C1)(F)F | C8H5F3O2
reactant | EDCI.HCl | 10.2 mmol, 1.96 g | CCN=C=NCCCN(C)C.Cl
reactant | 3-oxo-3-piperazin-1-yl-propionic acid ethyl ester hydrochloride | 8.5 mmol, 2 g | Cl.C(C)OC(CC(N1CCNCC1)=O)=O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid ethyl ester | 1.5 g, 48% | C(C)OC(CC(N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O)=O | C17H19F3N2O4
